US07312343B2
((S)-2-Hydroxy-1-methyl-ethyl)-methyl-carbamic acid tert-butyl ester
20.3 g Boc-MeAla-OH (100 mmol; Fluka) were dissolved in 80 ml THF and cooled to 0° C. 150 ml 1M BH3-THF (150 mmol; Fluka) were added at 0° C. over 1 h and after additional stirring at 0° C. for 1 h, 65 ml deionized water were added carefully at 0-5° C. After warming up to RT 160 ml 10% Na2CO3 were added and stirring continued for 1 h. The reaction mixture was extracted with 500 ml and 400 ml ethyl acetate and the organic layers were washed with brine and dried (Na2SO4). Removal of the solvent by rotary evaporation gave 18.5 g (98%) product as a colorless oil, [α]D=−6.1 (CHCl3; c=1). 1H-NMR:

reactant | Boc-MeAla-OH | 100 mmol, 20.3 g | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | BH3-THF | 150 mmol, 1M, 150 ml | B.C1CCOC1
reactant | water | O | H2O
reactant | Na2CO3 | 160 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | ((S)-2-Hydroxy-1-methyl-ethyl)-methyl-carbamic acid tert-butyl ester | 18.5 g, 98% | C(C)(C)(C)OC(N(C)[C@H](CO)C)=O | C9H19NO3
